US06559149B1
Synthesis of Ethyl N-Carbobenzoxy-4-amino-3,5-dimethylbenzoate
Ethyl 4-amino-3,5-dimethylbenzoate (2.0 g) was added to a tetrahydrofuran (THF) suspension of sodium hydride (0.82 g) in a nitrogen atmosphere and the mixture was stirred at room temperature for 30 min. Subsequently, carbobenzoxychloride (4.4 ml) was added to the suspension and the mixture was stirred overnight. A small amount of water was added to the reaction solution and the mixture was poured into ice water, followed by extraction with ethyl acetate. Following washing and drying (with magnesium sulfate), the solvent was distilled off under vacuum. The resulting crystal was recovered by filtration in the presence of ethanol and dried under vacuum to yield the end product (3.2 g).

reactant | Ethyl 4-amino-3,5-dimethylbenzoate | 2.0 g | NC1=C(C=C(C(=O)OCC)C=C1C)C | C11H15NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.82 g | [H-].[Na+]
reactant | carbobenzoxychloride | 4.4 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | O | H2O
product | Ethyl N-Carbobenzoxy-4-amino-3,5-dimethylbenzoate | 3.2 g | C(=O)(OCC1=CC=CC=C1)NC1=C(C=C(C(=O)OCC)C=C1C)C | C19H21NO4
